### PR TITLE
`Combine` 🧑‍🔬 operation from STIR 🥘 preserves 🫡 distance 📏

### PR DESCRIPTION
**Pull request by ElijahVlasov**
Full e2e proof of lemma 4.13 from STIR paper. Closes sorries in `ProofSystem/Stir/Combine.lean`.

### CODE REVIEW

**Review by quangvdao — CHANGES_REQUESTED** [review]
Thanks for pushing this through. CI is green, and the overall proof strategy looks useful, but I do not think this is ready to merge as-is yet. A few things need clarification or cleanup first.

## Main API / theorem-statement question

The biggest issue is that `combine_theorem` no longer has the same public shape as before.

Previously, `ArkLib/ProofSystem/Stir/Combine.lean` stated `combine_theorem` as a `jointAgreement` result under the STIR `proximityError` bound. In this PR, `combine_theorem` now proves an existential agreement statement:

- `ArkLib/ProofSystem/Stir/Combine.lean:550`
- `ArkLib/ProofSystem/Stir/Combine.lean:556`
- `ArkLib/ProofSystem/Stir/Combine.lean:558`

That may well be the right intermediate theorem, but it is not a drop-in replacement for the old API. Could you either:

1. add a wrapper theorem that recovers the old `jointAgreement` statement and keep the public `combine_theorem` name for that, or
2. rename this theorem to reflect the new statement and explicitly explain in the PR why the old statement is being replaced?

Relatedly, the probability threshold changed from the STIR `proximityError` expression to `(m * (dstar + 1) - ∑ i, degs i - 1) * ProximityGap.errorBound δ dstar φ`. Please add a short explanation or bridging lemma for why this is the intended bound.

## Potential semantic change

`ri` changed from a special-cased definition where index `0` maps to `1` and successors use `i' + ∑ j < i, ...`, to:

- `ArkLib/ProofSystem/Stir/Combine.lean:47`

```lean
def ri (dstar : ℕ) (degs : Fin m → ℕ) (r : F) (i : Fin m) : F :=
  let exp := i + ∑ j < i, (dstar - degs j)
  r ^ exp
```

This is probably intentional for the flattened polynomial-curve proof, but it changes the definition of `combine`, so please call it out in the PR description and confirm it matches the STIR indexing convention.

## Naming cleanup

Please rename the temporary / nonconventional names before merge.

Suggested renames:

- `block_size` -> `blockSize`
- `block_start` -> `blockStart`
- `total_terms` -> `totalTerms`
- `block_start_monotone` -> `blockStart_mono`
- `block_start_filter_nonempty` -> `filter_blockStart_le_nonempty`
- `block_idx_eq_max` -> `max_filter_blockStart_le_eq`
- `combine_eq_flat'`, `combine_eq_flat''`, `combine_eq_flat'''`, `combine_eq_flat_final` -> descriptive names such as:
  - `combine_eq_sum_range_blocks`
  - `combine_eq_sum_fin_blocks`
  - `combine_eq_sum_fin_blocks_expand_ri`
  - `combine_eq_sum_powers_flattened`
- `glorious_lemma` -> `rate_add_inv_card_lt_one_sub_delta`
- `even_more_glorious_lemma` -> `nat_succ_lt_card_mul_one_sub_delta`
- `master_lemma` -> `degree_lt_of_eval_shift_agreement`
- `degreeCor_eq` -> `degCor_eq_ite`
- `combine_theorem` -> either restore as the old public wrapper, or rename this new theorem to something like `exists_lowDegree_agreement_of_prob_combine_close`

For the new polynomial lemmas in `ArkLib/ToMathlib/Polynomial/EvalExt.lean`, I suggest matching the style of existing ArkLib/mathlib names like `eq_of_degreeOf_lt_card_of_eval_eq`:

- `poly_eq_of_eval_eq_degree` -> `eq_of_degree_lt_card_of_eval_eq`
- `poly_eq_of_eval_eq_natDegree` -> `eq_of_natDegree_lt_card_of_eval_eq`

## Style / maintainability nits

- `ArkLib/ToMathlib/Polynomial/EvalExt.lean:1` needs the standard copyright/license/authors header.
- `ArkLib/ToMathlib/Polynomial/EvalExt.lean` also needs a module docstring.
- Several new lines use `=>` instead of `↦`; please switch to the project style.
- Please avoid public theorem names with primes for meaningful variants. If the flattening lemmas need to stay, give each one a name describing the normal form it proves.
- There are multiple `set_option maxHeartbeats 0` blocks. I understand these proof scripts are heavy, but if possible please isolate the expensive parts into smaller named lemmas so the final theorem is less brittle.
- If `hδPos` in `combine_theorem` is no longer used, please remove it or use it explicitly.
- The theorem docstring still reads like the old STIR Lemma 4.13 statement and should be updated to match the actual conclusion.

Overall, I am happy to see the sorry removed, but I would prefer not to merge until the theorem contract and naming/style cleanup are resolved.

Posted by Cursor assistant (model: GPT-5.5) on behalf of the user (Quang Dao) with approval.

File: ArkLib/ProofSystem/Stir/Combine.lean [hunk 1]
```diff
@@ -67,41 +79,322 @@ lemma combine_eq_cases {F ι : Type*} [Field F] [DecidableEq F]
...
+    rw [h, 
+        Finset.sum_union (by 
+          aesop 
+            (add simp [Finset.disjoint_left])
+            (add safe (by grind))), 
+        Finset.sum_union (by simp)] 
+    simp 
+
+omit [DecidableEq F] in
+set_option maxHeartbeats 0 in
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Stir/Combine.lean:144]: 😄

File: ArkLib/ProofSystem/Stir/Combine.lean [hunk 2]
```diff
@@ -23,33 +28,25 @@ open BigOperators Finset NNReal Code
...
-    · simp only [ne_eq, Units.val_eq_one]
-      exact h
+  have h_geo_series : ∀ r : F, r ≠ 1 → ∑ j ∈ Finset.range (a + 1), r ^ j = 
+    (1 - r ^ (a + 1)) / (1 - r) := 
+    fun r hr ↦ by 
+      rw [←neg_div_neg_eq, geom_sum_eq hr] 
+      ring
+  aesop
 
 def ri (dstar : ℕ) (degs : Fin m → ℕ) (r : F) (i : Fin m) : F :=
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Stir/Combine.lean:47]: I guess combine is public, but it could be nice to make this private in some way, or rename it, as Whir/OutofDomainSmpl.lean also has an ri and searching across the repo may get confusing.

File: ArkLib/ProofSystem/Stir/Combine.lean [hunk 3]
```diff
@@ -67,41 +79,322 @@ lemma combine_eq_cases {F ι : Type*} [Field F] [DecidableEq F]
...
+  split_ifs 
+  · aesop 
+      (add simp [geom_sum_cases]) 
+      (add safe (by ring))
+  · simp_all
+
+open Finset
+open BigOperators
+
+private def block_size (dstar : ℕ) (degs : Fin m → ℕ) (i : Fin m) := dstar - degs i + 1
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Stir/Combine.lean:98]: not a blocker but docstrings could be useful

File: ArkLib/ProofSystem/Stir/Combine.lean [hunk 4]
```diff
@@ -120,51 +413,312 @@ lemma degreeCor_eq {F : Type u_1} [Field F] [DecidableEq F] {ι : Type u_2} (φ
...
   Let `dstar` be the target degree, `f₁,...,f_{m-1} : ι → F`,
   `0 < degs₁,...,degs_{m-1} < dstar` be degrees and
   `δ ∈ (0, min{(1-BStar(ρ)), (1-ρ-1/|ι|)})` be a distance parameter, then
       Pr_{r ← F} [δᵣ(Combine(dstar,r,(f₁,degs₁),...,(fₘ,degsₘ)))]
                    > err' (dstar, ρ, δ, m * (dstar + 1) - ∑ i degsᵢ) -/
-lemma combine_theorem
+theorem combine_theorem
   {φ : ι ↪ F} {dstar m : ℕ}
   (fs : Fin m → ι → F) (degs : Fin m → ℕ) (hdegs : ∀ i, degs i ≤ dstar)
   (δ : ℝ≥0) (hδPos : δ > 0)
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Stir/Combine.lean:553]: linter reports (hδPos : δ > 0) being unused. We could keep it for the sake of paper fidelity, but then rename it to _hδPos or just remove it.

**Review by alexanderlhicks — APPROVED** [review]

**Comment by alexanderlhicks** [comment]
merging this for now with a note to self to come back to it for docs
